### ISSUE TITLE
simp_arith: unwanted reduction of atoms due to overloaded vs. nonoverloaded operations

### ISSUE THREAD

**Issue by nomeata** [leanprover/lean4#6152]
In #5384 we found that this blows up with kernel deep recursion:
```
-- A function that reduced badly, as a canary for kernel reduction
def bad (n : Nat) : Nat :=
  if h : n = 0 then 0 else bad (n / 2)
termination_by n

theorem foo : 2 * bad 42000 = bad 42000 + bad 42000 := by simp_arith
```
This was fixed in #5708, but abstracting out atoms in the actual proof by reflection.

It turns out that the the fix isn’t complete, as 
```
theorem foo2 : Nat.mul 2 (bad 42000) = Nat.add (bad 42000) (bad 42000) := by simp_arith
```
and
```
theorem foo3 : Nat.mul 2 (bad 42000) = Nat.add (bad 42000) (bad 42000) := by
  simp (arith := true) only
```
still blows up.

### Versions

Lean 4.15.0-nightly-2024-11-20

**Comment by nomeata** [comment]
I investigated this closer and noticed that it matters whether I use the overloaded or the non-overloaded operations in the type hint. This runs into the kernel recursion again:
```
theorem foo2 : 2 * bad 42000 = bad 42000 + bad 42000 :=
  of_eq_true
    ((fun (x : Nat) =>
        @id ((Nat.mul 2 x = Nat.add x x) = True) -- NB!
…
```

And indeed that’s the issue: We cannot leave it to the kernel to prove`Nat.mul` and `. * .` equal if there are “dangerous“ arguments; both these cause the kernel to run go astray:
```
theorem foo6 : 2 * bad 42000 = 0         := sorryAx ((Nat.mul 2 (bad 42000) = 0))
theorem foo7 : Nat.mul 2 (bad 42000) = 0 := sorryAx ((2 * (bad 42000) = 0))
```
(Curious that these pass the elaborator’s defeq check; different heuristics, it seems!)

This raises two questions: What exactly is happening with `simp_arith`, and doesn’t that mean that `simp_arith` is broken when the goal contains `Nat.mul`?

And indeed the latter is true:
```
theorem foo' : Nat.mul 2 (bad 42000) = Nat.add (bad 42000) (bad 42000) := by simp_arith -- deep recursion
```
so the bug isn’t fixed properly.

This is what’s happening in simp_arith:
* [Lean.Meta.Linear.Nat.ToLinear.toLinearExpr](https://leanprover-community.github.io/mathlib4_docs/Lean/Meta/Tactic/LinearArith/Nat/Basic.html#Lean.Meta.Linear.Nat.ToLinear.toLinearExpr) recognizes both forms alike, but throws away the information which one we have.
* [Nat.Linear.Expr.denote](https://leanprover-community.github.io/mathlib4_docs/Init/Data/Nat/Linear.html#Nat.Linear.Expr.denote) uses `Nat.mul`
* [Lean.Meta.Linear.Nat.LinearExpr.toArith](https://leanprover-community.github.io/mathlib4_docs/Lean/Meta/Tactic/LinearArith/Nat/Basic.html#Lean.Meta.Linear.Nat.LinearExpr.toArith) uses `mkNatMul`, i.e. the overloaded form. This function is used to produce the type hint.

So my fix, by introducing the abstraction and the type hint, had two effects:
* As long as the goal was using the overloaded functions, the kernel is happy on the  “outside”
* The discrepancy between `.denote` and `.toArith` still requires the kernel to do the unfolding, but this is under the abstraction, and the kernel won’t go bad here.

This worked in the cases where the goal uses the overloaded functions, matching the type hint. But we still have a bug if the non-overloaded functions appear in the goal.

A possible fix could be extend the `Expr` type used by `simp_arith` to remember if the overloaded or non-overloaded form was used, and use that in the denotation function and the type hint function.

Another possible fix could be to restrict `simp_arith` to simply only handle the overloaded functions. This is justified since they are the simp normal form, and also `omega` does that. This is the easier route.

Of course it would be nice if the kernel would simply do the right thing, and not reduce `Nat.mul` too soon, but I do not know if that is achievable.

**Comment by nomeata** [comment]
Ok, the fix doesn’t actually work: Even if the goal, the denotation function and the type hint all use the plain `Nat.add`, the kernel will still go astray.

Maybe the problem isn’t fixable outside the kernel, and this `reduce_nat` reduction (which will `whnf` its arguments) is too eager, and needs to be delayed until there is no hope of of solving this otherwise.
```
lbool type_checker::lazy_delta_reduction(expr & t_n, expr & s_n) {
    while (true) {
        lbool r = is_def_eq_offset(t_n, s_n);
        if (r != l_undef) return r;

        if (!has_fvar(t_n) && !has_fvar(s_n)) {
            if (auto t_v = reduce_nat(t_n)) {
                return to_lbool(is_def_eq_core(*t_v, s_n));
            } else if (auto s_v = reduce_nat(s_n)) {
                return to_lbool(is_def_eq_core(t_n, *s_v));
            }
        }
```
Tricky.

**Comment by keithadler** [comment]
No longer reproduces on `4.35.0-nightly-2026-09-04` or stable `4.33.1`. `simp_arith` is now deprecated in favour of `simp +arith +decide`; with that substitution the `bad 42000` canary is left alone and `foo` closes in 0.27s on nightly, 0.66s on 4.33.1.

Suggest closing.

Triage assisted by Claude; repros run and checked manually.
